**************************************************************
*  Electronic circuit simulation file generated by gSpiceUI  *
*                Version 1.0.00 (23/09/2011)                 *
**************************************************************

* Component Definitions
D1 2 5 unknown
D2 5 1 unknown
I1 4 0 DC 1mA
Q1 4 1 3 2PA1576R
R1 3 2 47
R2 0 1 47k
V1 2 0 DC 8V

* Model Definitions
.MODEL zener1 D (BV=2.4)
.MODEL 2PA1576R PNP (IS=2.514E-14 NF=0.9978 ISE=5.697E-15 NE=1.421 BF=315.5 IKF=0.08039 VAF=40.01 NR=1.001 ISC=2.533E-14)

* NG-Spice Simulation Commands
.OPTIONS NOPAGE NUMDGT=6 UNITS=Degrees WIDTH=104
.PRINT DC V(4,0)
.DC I1 1.00m 12.00m 50.00u

.END

